US04970218
N-(3-Chloro-4-pyridinyl)-3-methyl-N-propyl-1H-indol-1-amine
The title compound was prepared from N-(3-chloro-4-pyridinyl)-3-methyl-1H-indol-1-amine and 1-bromopropane with the aid of NaH in substantially the same manner as in Example 4, m.p. 68°-70°.

reactant | N-(3-chloro-4-pyridinyl)-3-methyl-1H-indol-1-amine | ClC=1C=NC=CC1NN1C=C(C2=CC=CC=C12)C | C14H12ClN3
reactant | 1-bromopropane | BrCCC | C3H7Br
reactant | NaH | [H-].[Na+]
product | N-(3-Chloro-4-pyridinyl)-3-methyl-N-propyl-1H-indol-1-amine | ClC=1C=NC=CC1N(N1C=C(C2=CC=CC=C12)C)CCC | C17H18ClN3
